US06063791
2,6-Dimethyl-3-(chlorosulfonyl)benzoic acid
4 ml of chlorosulfonic acid are added slowly to 1 g (0.067 mol) of 2,6-dimethylbenzoic acid and the reaction mixture is stirred for 1 hour at 55° C. After cooling, the mixture is poured into 100 ml of iced water. The precipitate formed is filtered off, washed with cold water and then dried in a desiccator under vacuum to give 1.22 g of the expected product in the form of a white solid (yield=73%).

reactant | chlorosulfonic acid | 4 ml | ClS(=O)(=O)O | ClHO3S
reactant | 2,6-dimethylbenzoic acid | 0.067 mol, 1 g | CC1=C(C(=O)O)C(=CC=C1)C | C9H10O2
solvent | water | 100 ml | O | H2O
product | 2,6-Dimethyl-3-(chlorosulfonyl)benzoic acid | 1.22 g | CC1=C(C(=O)O)C(=CC=C1S(=O)(=O)Cl)C | C9H9ClO4S
